US09024027B2
A mixture of 4-(2-chloroethyl)morpholine hydrochloride (0.195 g, 1.050 mmol), K2CO3 (0.242 g, 1.751 mmol) and tert-butyl 2-(5-(methylsulfonamidomethyl)-1,3-dioxoisoindolin-2-yl)acetate (0.258 g, 0.700 mmol), (prepared in an analogous manner as described in Example 46, Scheme 46, Steps 1, 2, 3, 4), was heated to 80° C. for 5 hours in DMF (10 ml) and then stirred at room temperature overnight. The insoluble inorganic salts were filtered off and then washed with ethyl acetate. The filtrate was concentrated to dryness, and the resulting crude was purified by filtration through a silica gel cartridge (100% DCM to DCM:MeOH=98:2) to afford tert-butyl 2-(5-((N-(2-morpholinoethyl)methylsulfonamido)methyl)-1,3-dioxoisoindolin-2-yl)acetate (0.200 g, 0.415 mmol, 59.3% yield, MS/ESI+ 482.1 [MH]+).

reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.050 mmol, 0.195 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 1.751 mmol, 0.242 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-(5-(methylsulfonamidomethyl)-1,3-dioxoisoindolin-2-yl)acetate | 0.700 mmol, 0.258 g | CS(=O)(=O)NCC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C16H20N2O6S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-((N-(2-morpholinoethyl)methylsulfonamido)methyl)-1,3-dioxoisoindolin-2-yl)acetate | 0.415 mmol, 0.200 g, 59.3% yield | O1CCN(CC1)CCN(S(=O)(=O)C)CC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C22H31N3O7S
